US07939528B2
A mixture of 1-(triphenylmethyl)-1H-benzimidazol-5-ol and 1-(triphenylmethyl)-1H-benzimidazol-6-ol (750 mg, 2.0 mmol), 4-fluoro-3-(methyloxy)benzaldehyde (461 mg, 3.0 mmol) and cesium carbonate (972 mg, 3.0 mmol) were heated in dimethylformamide at 80 degrees centigrade for 2 hours. The reaction was diluted with water and extracted twice with ethyl acetate. The organic layers were washed with brine, dried over MgSO4, concentrated and dried under vacuum for approximately 18 hours. The residue was dissolved in 15 mL of tetrahydrofuran and stirred with 5 mL or 4N HCl in dioxane for 4 days. The reaction was concentrated and purified by preparative HPLC. Pure fractions were diluted with 1N NaOH to make basic and then extracted twice with ethyl acetate. The organic layers were dried over MgSO4 and concentrated to give 4-(1H-benzimidazol-5-yloxy)-3-(methyloxy)benzaldehyde. (M+1) 269.0, 1.34 min (LC/MS method B)

reactant | 1-(triphenylmethyl)-1H-benzimidazol-5-ol | C1(=CC=CC=C1)C(N1C=NC2=C1C=CC(=C2)O)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H20N2O
reactant | 1-(triphenylmethyl)-1H-benzimidazol-6-ol | 2.0 mmol, 750 mg | C1(=CC=CC=C1)C(N1C=NC2=C1C=C(C=C2)O)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H20N2O
reactant | 4-fluoro-3-(methyloxy)benzaldehyde | 3.0 mmol, 461 mg | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | cesium carbonate | 3.0 mmol, 972 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(1H-benzimidazol-5-yloxy)-3-(methyloxy)benzaldehyde | N1C=NC2=C1C=CC(=C2)OC2=C(C=C(C=O)C=C2)OC | C15H12N2O3
